US04675397
By employing 0.805 g of (3R,4S)-4-acetylthio-3-tritylamino-2-oxoazetidine, 0.437 g of p-toluenesulfonic acid monohydrate, 0.19 g of pyridine, and, 0.175 g of DMF, 0.144 ml of diphosgene, 0.61 g of 2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetic acid, 0.243 g of triethylamine and 2 ml of propylene oxide, a procedure similar to Reference Example 38B is taken to give 0.548 g of (3R,4S)-4-acetylthio-3-[2-(2-chloroacetoamidothiazole-4-yl)-2-methoxyiminoacetoamido]-2-oxoazetidine.

reactant | (3R,4S)-4-acetylthio-3-tritylamino-2-oxoazetidine | 0.805 g | C(C)(=O)S[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O2S
reactant | p-toluenesulfonic acid monohydrate | 0.437 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | diphosgene | 0.144 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 2-(2-chloroacetamidothiazol-4-yl)-2-methoxyiminoacetic acid | 0.61 g | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C8H8ClN3O4S
reactant | propylene oxide | 2 ml | C1C(C)O1 | C3H6O
solvent | triethylamine | 0.243 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.175 g | CN(C)C=O | C3H7NO
solvent | pyridine | 0.19 g | N1=CC=CC=C1 | C5H5N
product | (3R,4S)-4-acetylthio-3-[2-(2-chloroacetoamidothiazole-4-yl)-2-methoxyiminoacetoamido]-2-oxoazetidine | 0.548 g | C(C)(=O)S[C@H]1[C@@H](C(N1)=O)NC(C(=NOC)C=1N=C(SC1)NC(CCl)=O)=O | C13H14ClN5O5S2
